US05047431
(E) -1-[4'-(2-Dimethylaminoethoxy)phenyl]-1-(3'-hydroxyphenyl)-2-phenylbut-1-ene Hydrochloride
40.5 G. (0.1 mole) of the diastereomeric mixture of 1-[4'-(2-dimethylaminoethoxy)phenyl]-1-(3'-hydroxyphenyl)2-phenyl-n-butan-1-ol in 500 ml. ethanol are added to 25 ml. concentrated hydrochloric acid and refluxed for 2 hours. Then the solvent is removed in vacuo and the residue is crystallized from methanol/ ether (1/1). Obtained are colorless crystals having a melting point of 221° C. (dec.); Rf 0.25 [CHCl3 /CH3OH (7/3)]; yield 20.3 g. (48%).

reactant | 1-[4'-(2-dimethylaminoethoxy)phenyl]-1-(3'-hydroxyphenyl)2-phenyl-n-butan-1-ol | CN(CCOC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)(O)C1=CC(=CC=C1)O)C | C26H31NO3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | CHCl3 CH3OH | C(Cl)(Cl)Cl.CO
product | (E) -1-[4'-(2-Dimethylaminoethoxy)phenyl]-1-(3'-hydroxyphenyl)-2-phenylbut-1-ene Hydrochloride | Cl.CN(CCOC1=CC=C(C=C1)/C(=C(/CC)\C1=CC=CC=C1)/C1=CC(=CC=C1)O)C | InChI=1S/C26H29NO2.ClH/c1-4-25(20-9-6-5-7-10-20)26(22-11-8-12-23(28)19-22)21-13-15-24(16-14-21)29-18-17-27(2)3;/h5-16,19,28H,4,17-18H2,1-3H3;1H/b26-25+;
